US07037925B2
4-{2-(Aminocarbonyl)anilino]-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 2-aminobenzamide (0.029 g, 0.21 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 6 h. After cooling the reaction mixture was evaporated. The residue was dissolved in a mixture of MeCN and water (1:3) containing 0.1% trifluoroacetic acid and the turbid solution was filtered through a plug of glass wool. Preparative HPLC using a gradient (containing 0.1% trifluoroacetic acid) of 10→40% MeCN in water as eluent gave, after evaporation, the title compound as the trifluoroacetic acid salt. The product was suspended in saturated aqueous NaHCO3 an absorbed on a short SPE column [ISOLUTE™ C18 (EC)] pre-conditioned subsequently with methanol and then water. The column was washed extensively with water until the pH of the eluent was neutral. The product was then eluted with methanol. After evaporation, the residue was crystallized from ethanol to give the title compound (26 mg, 41%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 2-aminobenzamide | 0.21 mmol, 0.029 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 4-{2-(Aminocarbonyl)anilino]-6,7-dimethoxy-3-quinolinecarboxamide | 26 mg, 41% | NC(=O)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=CC=C1 | C19H18N4O4
